US08492310B2
Preparation of 1-(1-ethyl-4-(3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoyl)-1H-pyrazol-5-yloxy)ethyl methyl carbonate (the following Compound No. 4)
5-Hydroxy-1-ethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone (300 mg) was dissolved in 2-butanone (10 mL), and potassium carbonate (130 mg) and tetrabutylammonium bromide (15 mg) were added. After stirring at room temperature for 10 minutes, 1-chloroethyl methyl carbonate (purity: 85%, 270 mg) was added at room temperature, followed by heating and refluxing for 3 hours. After completion of the reaction, the reaction mixture was cooled to room temperature and poured into water and then extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid and a saturated sodium chloride aqueous solution, followed by drying over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The obtained residue was purified by column chromatography with n-hexane:ethyl acetate=1:1, to obtain the desired product (180 mg) as slightly yellow solid. The NMR spectrum data of this product are as follows.

reactant | 5-Hydroxy-1-ethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | 300 mg | COCCOC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1O)CC)C | C17H22N2O6S
reactant | potassium carbonate | 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloroethyl methyl carbonate | 270 mg | C(OC(C)Cl)(OC)=O | C4H7ClO3
reactant | water | O | H2O
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
catalyst | tetrabutylammonium bromide | 15 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(1-ethyl-4-(3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoyl)-1H-pyrazol-5-yloxy)ethyl methyl carbonate | 180 mg | C(OC(C)OC1=C(C=NN1CC)C(C1=C(C(=C(C=C1)S(=O)(=O)C)OCCOC)C)=O)(OC)=O | C21H28N2O9S
